US08049015B2
(5-Bromo-6-chloro-pyridin-3-yl)-acetic acid ethyl ester (0.549 g, 1.97 mmol), cyclopropanecarboxylic acid ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-amide (0.787 g, 1.97 mmol), and potassium carbonate (0.824 g, 5.91 mmol) were combined in DME (6 mL) and H2O (3 mL), and the solution was purged with N2 for 40 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.338 g, 0.20 mmol) was added, and the reaction was stirred at 85° C. for 2 hours. After cooling to room temperature, the mixture was worked-up with EtOAc, H2O, and brine, and the organic layer was separated, dried, filtered, and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give (6-chloro-5-{2-[(N-cyclopropanecarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester.

reactant | (5-Bromo-6-chloro-pyridin-3-yl)-acetic acid ethyl ester | 1.97 mmol, 0.549 g | C(C)OC(CC=1C=NC(=C(C1)Br)Cl)=O | C9H9BrClNO2
reactant | cyclopropanecarboxylic acid ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-amide | 1.97 mmol, 0.787 g | C(C)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C20H27BF3NO3
reactant | potassium carbonate | 5.91 mmol, 0.824 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | brine | [Cl-].[Na+].O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.20 mmol, 0.338 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | O | H2O
product | (6-chloro-5-{2-[(N-cyclopropanecarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)C1CC1)Cl)=O | C23H24ClF3N2O3
